US04251531
Ethyl 4-amino-benzoate (8.5 g) dissolved in dioxane (50 ml) is reacted with hexanoyl chloride (7 g) and pyridine (7 ml) at the reflux temperature for one hour. After cooling and dilution with water, the product is extracted with ethylacetate and the organic layer is washed first with 1 N HCl and then with 5% NaHCO3. Evaporation to dryness yields ethyl 4-hexanoyl-amino-benzoate (10 g) which is dissolved in dry xilene (100 ml) and reacted with ethyl carbamate (6 g) and phosphorus pentoxide (35 g) for 5 hours at the reflux temperature. After cooling, pour in ice-water, neutralize with 2 N NaOH and separate the organic layer. Evaporation to dryness yields raw 6-carbethoxy-2-pentyl-3,4-dihydro-4-oxo-quinazoline (12.1 g) which is hydrolyzed with 2 N NaOH (30 ml) in dioxane (30 ml) for 16 hours at room temperature, to give 6-carboxy-2-pentyl-3,4-dihydro-4-oxo-quinazoline (7.9 g; m.p. 310°- 312° C., after crystallization from ethanol).

reactant | Ethyl 4-amino-benzoate | 8.5 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexanoyl chloride | 7 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | ethyl 4-hexanoyl-amino-benzoate | 10 g | C(CCCCC)(=O)C1=CC(=C(C(=O)OCC)C=C1)N | C15H21NO3
